US07592363B2
4-(2-CYCLOPENTYL-7-FLUORO-2H-INDAZOL-3-YL)PHENOL
A solution of 2-cyclopentyl-7-fluoro-3-(4-methoxyphenyl)-2H-indazole (0.055 g, 0.177 mmol) in CH2Cl2 containing excess equivalents of cyclohexene (0.3 mL) at −78° C. was treated with boron tribromide (0.70 mL, 0.74 mmol, 4 eq.) and slowly allowed to warm to ambient temperature. The reaction mixture was quenched by dropwise addition of CH3OH to the cooled reaction mixture. The solvent was removed in vacuo and the residue partitioned with EtOAc and 1 N HCl. The organic phase was washed with brine and dried (Na2SO4). Removal of the solvent in vacuo afforded the crude product. Pure product was obtained by crystallization or flash chromatography through water deactivated silica gel to give the product (0.03 g) as an amber solid.

reactant | 2-cyclopentyl-7-fluoro-3-(4-methoxyphenyl)-2H-indazole | 0.177 mmol, 0.055 g | C1(CCCC1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)OC)F | C19H19FN2O
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
reactant | boron tribromide | 0.74 mmol, 0.70 mL, 4 eq. | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2-CYCLOPENTYL-7-FLUORO-2H-INDAZOL-3-YL)PHENOL | 0.03 g | C1(CCCC1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)O)F | C18H17FN2O
